US04207228
Preparation of 4,4,6,6-tetramethyl-1,5-diazepin-2-one:
4.4 g 2-methyl-1,2-propanediamine, 6.0 g 3,3-dimethylacrylic acid and 8 ml toluene were mixed and heated at 140°-150° C. overnight. The mixture was cooled and poured into 80 ml of 5% Na2CO3 solution; then extracted 3 times with 50 ml aliquots of chloroform. The combined chloroform solutions were dried and concentrated. Upon recrystallization from hexane-benzene a yellow crystalline solid, m. pt 129°-132° C., is obtained.

reactant | 2-methyl-1,2-propanediamine | 4.4 g | CC(CN)(C)N | C4H12N2
reactant | 3,3-dimethylacrylic acid | 6.0 g | CC(=CC(=O)O)C | C5H8O2
reactant | Na2CO3 | 80 ml | C(=O)([O-])[O-].[Na+].[Na+]
solvent | toluene | 8 ml | C1(=CC=CC=C1)C | C7H8
product | 4,4,6,6-tetramethyl-1,5-diazepin-2-one | CC1(CC(N=CC(N1)(C)C)=O)C | C9H16N2O
